US08071595B2
To a solution of 2,2-dimethyl-5-oxo-4-(4-(quinolin-2-ylmethoxy)phenyl)-2,5-dihydro-1H-pyrrol-3-yl trifluoromethanesulfonate (2.0 g, 0.004 mol) in 1,4-dioxane (50 mL) were added pyridin-4-yl boronic acid (598 mg, 4.8 mol), Na2CO3 (1.0 g, 0.012 mol) and water (20 mL) at RT under an inert atmosphere. The mixture was stirred for 30 min and then Pd(PPh3)4 (468 mg, 0.4 mol) was added. The mixture was then heated at 80° C. for 16 h, diluted with water, and extracted with EtOAc (2×200 mL). The combined organic layers were washed with water and brine, and then dried over Na2SO4 and concentrated in vacuo to afford 5,5-dimethyl-4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrol-2(5H)-one (250 mg, 15%) as a white solid. 1H NMR (500 MHz, d6-DMSO): δ 8.74-8.68 (m, 1H), 8.66-8.56 (m, 2H), 8.06-7.94 (m, 2H), 7.78 (t, J=7.2 Hz, 1H), 7.66-7.56 (m, 3H), 7.30-7.18 (m, 4H), 6.98-6.88 (m, 3H), 5.36 (s, 2H), 1.36 (s, 6H). MS: M+H m/z=422.1; M+Na: m/z=444.1. HPLC: 89%, (Condition-I).

reactant | 2,2-dimethyl-5-oxo-4-(4-(quinolin-2-ylmethoxy)phenyl)-2,5-dihydro-1H-pyrrol-3-yl trifluoromethanesulfonate | 0.004 mol, 2.0 g | FC(S(=O)(=O)OC=1C(NC(C1C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)(C)C)(F)F | C23H19F3N2O5S
reactant | pyridin-4-yl boronic acid | 4.8 mol, 598 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 0.012 mol, 1.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.4 mol, 468 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
product | 5,5-dimethyl-4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrol-2(5H)-one | 250 mg, 15% | CC1(C(=C(C(N1)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=NC=C1)C | C27H23N3O2
